US06468979B1
Preparation of 2-(2-oxooxazolidin-3-yl)thiazole-4-carbaldehyde (Intermediate J)
MnO2 (7.2 g; 83.6 mmol) was added to a solution of 3-(4-hydroxymethylthiazole-2-yl)oxazolidin-2-one (0.56 g; 2.8 mmol), prepared as described in the above step, in chloroform (60 ml) and methanol (6 ml).

reactant | 3-(4-hydroxymethylthiazole-2-yl)oxazolidin-2-one | 2.8 mmol, 0.56 g | OCC=1N=C(SC1)N1C(OCC1)=O | C7H8N2O3S
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 6 ml | CO | CH4O
catalyst | MnO2 | 83.6 mmol, 7.2 g | O=[Mn]=O
product | 2-(2-oxooxazolidin-3-yl)thiazole-4-carbaldehyde | O=C1OCCN1C=1SC=C(N1)C=O | C7H6N2O3S
